US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (232 mg, 1.0 mmol) and 3-ethyl-5-trifluoromethyl-indol-1-ylamine (228 mg, 1 mmol) in DMF (5 mL) is stirred at 50° C. for 1 h. The mixture is treated with DMTMM (276 mg, 1 mmol) and stirred at 50° C. for 2 h. The mixture is diluted with saturated aqueous Na2CO3 (5 mL) and stirred for 5 min. The precipitate is collected by filtration and dried in vacuo to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-ethyl-5-trifluoromethyl-indol-1-yl)-amide (240 mg, 54%). MS: 443 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.24 (s, 1H), 8.34 (d, 1H), 8.26 (d, 1H), 8.19 (s, 1H), 7.58 (m, 2H), 7.42 (m, 3H), 2.84 (q, 2H), 2.78 (s, 3H), 1.31 (t, 3H).

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.0 mmol, 232 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | 3-ethyl-5-trifluoromethyl-indol-1-ylamine | 1 mmol, 228 mg | C(C)C1=CN(C2=CC=C(C=C12)C(F)(F)F)N | C11H11F3N2
reactant | DMTMM | 1 mmol, 276 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-ethyl-5-trifluoromethyl-indol-1-yl)-amide | 240 mg, 54% | C(C)C1=CN(C2=CC=C(C=C12)C(F)(F)F)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C23H18F4N4O
